US07361763B2
A solution of (2-amino-5-bromo-pyridin-3-yl)-(6-fluoro-pyridin-3-yl)-methanone, 1.1 equivalents of isobutylamine and 1.2 equivalents (or 2.3 equivalents for amines in salt form) of triethyl amine are dissolved in absolute ethanol (overall concentration of the starting material: 0.22 M) and sealed in a Smith process vial. The reaction was run in a Personal Chemistry® microwave reactor at 150° C. for 900 s. The solvent was evaporated and the crude mixed with 1.3 equivalents of 3,4-dimethoxyphenylboronic acid, 6 mol % of dichlorobis (triphenylphosphinol) palladium (II) and a 3:2:1 mixture of acetonitrile, water, and an aqueous 2 M solution of sodium carbonate (overall concentration of starting material: 0.18 M). The reaction was run in a Personal Chemistry® microwave reactor at 165° C. for 1200 s. Water was added and the mixture extracted three times with ethyl acetate Purification by flash chromatography on silica gel with a gradient of ethyl acetate/hexane to afforded [2-Amino-5-(3,4-dimethoxy-phenyl)-pyridin-3-yl]-(6-isobutylamino-pyridin-3-yl)-methanone as a yellow solid (71% yield). 1H NMR (DMSO-d6): δ 8.49 (d, J=2.0 Hz, 1H), 8.32 (d, J=2.5 Hz, 1H), 7.86 (d, J=3.0 Hz, 1H), 7.72 (d, J=9.0 Hz, 1H), 7.57 (broad s, 1H), 7.14 (d, J=2.0 Hz, 1H), 7.06 (dd, J=2.0, 8.5 Hz, 1H), 7.03 (broad s, 2H), 6.98 (d, J=8.0 Hz, 1H), 6.56 (d, J=8.5 Hz, 1H), 3.79 (s, 3H), 3.75 (s, 3H), 3.15 (broad s, 2H), 1.83 (m, 1H), 0.89 (d, J=6.5 Hz, 6H); HPLC/MS m/z: 407.2 [MH]+.

reactant | (2-amino-5-bromo-pyridin-3-yl)-(6-fluoro-pyridin-3-yl)-methanone | NC1=NC=C(C=C1C(=O)C=1C=NC(=CC1)F)Br | C11H7BrFN3O
reactant | isobutylamine | 1.1 equivalents | C(C(C)C)N | C4H11N
reactant | 3,4-dimethoxyphenylboronic acid | 1.3 equivalents | COC=1C=C(C=CC1OC)B(O)O | C8H11BO4
reactant | sodium carbonate | 0.18 M | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium (II) | [Pd+2]
solvent | Water | O | H2O
solvent | acetonitrile | C(C)#N | C2H3N
solvent | triethyl amine | C(C)N(CC)CC | C6H15N
product | [2-Amino-5-(3,4-dimethoxy-phenyl)-pyridin-3-yl]-(6-isobutylamino-pyridin-3-yl)-methanone | 71% yield | NC1=NC=C(C=C1C(=O)C=1C=NC(=CC1)NCC(C)C)C1=CC(=C(C=C1)OC)OC | C23H26N4O3
